US04789683
(-)-N-benzyl-2-(3-bromo-2-hydroxy-6-methoxybenzamidomethyl)pyrrolidine hydrochloride
The title compound was prepared from (-)-N-benzyl-2-(3-bromo-2,6-dimethoxybenzamidomethyl)pyrrolidine by dealkylation in the same manner as described in Example 2. Yield 55%. M.p. (HCl) 207°-209° C. (EtOH).

reactant | (-)-N-benzyl-2-(3-bromo-2,6-dimethoxybenzamidomethyl)pyrrolidine | C(C1=CC=CC=C1)N1C(CCC1)CNC(C1=C(C(=CC=C1OC)Br)OC)=O | C21H25BrN2O3
reactant | HCl | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | (-)-N-benzyl-2-(3-bromo-2-hydroxy-6-methoxybenzamidomethyl)pyrrolidine hydrochloride | Yield 55% | Cl.C(C1=CC=CC=C1)N1C(CCC1)CNC(C1=C(C(=CC=C1OC)Br)O)=O | InChI=1S/C20H23BrN2O3.ClH/c1-26-17-10-9-16(21)19(24)18(17)20(25)22-12-15-8-5-11-23(15)13-14-6-3-2-4-7-14;/h2-4,6-7,9-10,15,24H,5,8,11-13H2,1H3,(H,22,25);1H
